US07294631B2
1.1 4-Cyanomethylene-piperidine-1-carboxylic acid ethyl ester
To a suspension of 12.85 g (321.28 mmol) of sodium hydride (60% suspension in mineral oil) in 500 ml of anhydrous tetrahydrofuran at 0° C., was added 56.91 g (321.28 mmol) of diethyl-(cyanomethyl)-phosphonate over a 10-min period. The reaction mixture was stirred for 2 h at room temperature and then 44.05 g (292.07 mmol) of 4-oxo-piperidine-1-carboxylic acid ethyl ester in 230 ml of anhydrous tetrahydrofuran was added dropwise over 30 min. The resulting mixture was stirred at room temperature for 16 h.

reactant | sodium hydride | 321.28 mmol, 12.85 g | [H-].[Na+]
reactant | diethyl-(cyanomethyl)-phosphonate | 321.28 mmol, 56.91 g | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | 4-oxo-piperidine-1-carboxylic acid ethyl ester | 292.07 mmol, 44.05 g | C(C)OC(=O)N1CCC(CC1)=O | C8H13NO3
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 230 ml | O1CCCC1 | C4H8O
product | 4-Cyanomethylene-piperidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC(CC1)=CC#N | C10H14N2O2
